### PR TITLE
Fix univpoly cs unification

### LINKED ISSUE #20779: Canonical structure resolution with univ poly and tactic unification issue
### Description of the problem

The following code results in an unsatisfiable universe constraint, as we don't unify the `carrier default@{?i' ?j'}` solution with the expected Type generated by the `fn` application. 

### Small Rocq / Coq file to reproduce the bug

```coq
Set Universe Polymorphism.
Set Primitive Projections.

Structure S := { carrier :> Type; val : carrier }.

Canonical Structure default@{i j} : S@{j} := {| carrier := Type@{i}; val := nat |}.

Definition test (s : S) : carrier s := val s.

(** We want to force a CS resolution for default, so a problem carrier ?S = Type *)

Axiom fn : forall x : Type, True.

Lemma foo@{i} : True.
  apply fn. apply (test@{i} _).
Qed. (* Fails *)
```

### Version of Rocq / Coq where this bug occurs

master, probably all versions

### Interface of Rocq / Coq where this bug occurs

_No response_

### Last version of Rocq / Coq where the bug did not occur

_No response_

### PR DESCRIPTION
**Pull request by mattam82**
Fixes / closes #20779

This fixes an issue with the resolution of canonical structures in presence of univ poly that did not register the right typing constraints. It is implementing the same algorithm as evarconv now, properly registering necessary universe constraints.
Bug originally found in the HoTT library.

- [x] Added / updated **test-suite**.
- [x] Added changelog entry

- [ ] Opened **overlay** pull requests.

### CODE REVIEW

**Comment by ppedrot** [comment]
Probably worth to cc @gares

**Comment by SkySkimmer** [comment]
@coqbot run full ci

File: test-suite/success/univpoly_cs_unif.v [hunk 1]
```diff
@@ -0,0 +1,16 @@
...
+
+Definition test (s : S) : carrier s := val s.
+
+(** We want to force a CS resolution for default, so a problem carrier ?S = Type *)
+
+Axiom fn : forall x : Type, True.
+
+Lemma foo@{i} : True.
+  apply fn. apply (test@{i} _).
+Qed.
```
Comment (SkySkimmer) [inline test-suite/success/univpoly_cs_unif.v:16]: can you add a copy to check evarconv? I guess something like
```suggestion
Lemma foo@{i} : True.
  apply fn. apply (test@{i} _).
Qed.

Lemma bar@{i} : True.
  apply fn. refine (test@{i} _).
Qed.
```

Comment (mattam82) [reply test-suite/success/univpoly_cs_unif.v:16]: Done

**Comment by mattam82** [comment]
I changed the fix significantly, now it's doing the same unification / retypings as evarconv.

**Comment by mattam82** [comment]
@coqbot full ci

**Comment by mattam82** [comment]
@coqbot run full ci

**Comment by mattam82** [comment]
This passes the CI, just needs squashing to avoid a trailing whitespace error. @gares could you merge?

**Comment by mattam82** [comment]
@coqbot run full ci

**Comment by gares** [comment]
@coqbot merge now

**Review by gares — APPROVED** [review]

**Comment by gares** [comment]
@coqbot merge now
